US07135480B2
1-(4-Amino-benzoyl)-3-cyano-pyrrolo[1,2-a]quinoline
A solution of 3-cyano-1-(4-nitro-benzoyl)-pyrrolo[1,2-a]quinoline (44.3 mg, 0.130 mmol), 5 wt % Palladium on Carbon (23.4 mg), ethanol (12.0 mL), and ethyl acetate (90.0 mL) was agitated under hydrogen (30 PSI) for 1.5 h. The solution was filtered through Celite and purified by flash column chromatography (9:1 dichloromethane/ethyl acetate) to yield 5.3 mg (13%) of a light brown solid. 1H NMR (DMSO-d6): 8.04 (d, J=6.86 Hz, 1H), 7.88 (d, J=9.34 Hz, 1H), 7.81 (d, J=8.79 Hz, 2H), 7.75 (d, J=9.07 Hz, 2H), 7.55–7.70 (m, 3H), 6.66 (d, J=8.79 Hz, 2H), 6.42 (s, 2H).

reactant | 3-cyano-1-(4-nitro-benzoyl)-pyrrolo[1,2-a]quinoline | 0.130 mmol, 44.3 mg | C(#N)C=1C=C(N2C1C=CC1=CC=CC=C21)C(C2=CC=C(C=C2)[N+](=O)[O-])=O | C20H11N3O3
reactant | ethanol | 12.0 mL | C(C)O | C2H6O
catalyst | Palladium on Carbon | 23.4 mg | [Pd] | Pd
solvent | ethyl acetate | 90.0 mL | C(C)(=O)OCC | C4H8O2
product | 1-(4-Amino-benzoyl)-3-cyano-pyrrolo[1,2-a]quinoline | 5.3 mg, 13% | NC1=CC=C(C(=O)C2=CC(=C3N2C2=CC=CC=C2C=C3)C#N)C=C1 | C20H13N3O
